### PR TITLE
Card lemmas

### PR DESCRIPTION
**Pull request by chdoc**
##### Motivation for this change

Additional lemmas about cardinalities of predicates and sets. Mainly picking `n` distinct elements for an a predicate with `n <= #|A|`. 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [ ] ~added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/fintype.v [hunk 1]
```diff
@@ -624,13 +624,17 @@ Proof.
 by apply: (iffP idP) => [/eqP/mem_card1[x inA]|[x /eq_card1/eqP//]]; exists x.
 Qed.
 
-Lemma fintype_le1P : reflect (forall x, all_equal_to x) (#|T| <= 1).
+Lemma card_le1_eqP A :
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:627]: In thought I did that one when I added `fintype_le1P` tomorrow. :laughing: I will double check tomorrow, if I forgot to push something.

File: mathcomp/ssreflect/finset.v [hunk 2]
```diff
@@ -824,6 +824,16 @@ rewrite eq_sym eqn_leq card_gt0 => /andP[/set0Pn[x Ax] leA1].
 by exists x; apply/eqP; rewrite eq_sym eqEcard sub1set Ax cards1 leA1.
 Qed.
 
+Lemma cards2P A : reflect (exists x y : T, x != y /\ A = [set x;y]) (#|A| == 2).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/finset.v:827]: Nice one to have indeed, I think there is a lot of refactoring to do with all the `card_*` lemma you added, through `enum` (which is `uniq` which size is the cardinal of the considered set). Indeed, I think `card_eqP` would be almost a one liner and `card_geqP`, and `cards2P` is a simple twice case analysis (the main step being something like `case: (enum A) (enum_uniq A) (size_enum ...) => [|x [|y []//]`; exists x; exists y`).
I also think it would be nice to have le/lt variants and `pred` variants.

Comment (chdoc) [reply mathcomp/ssreflect/finset.v:827]: I'm not sure I follow. There is no `card_eqP` (yet) and indeed I'm not sure that would be useful, since `enum A` has already good lemma support. And `card_geqP` is about encapsulating the picking of a subsequence of `enum A`, if one only has a lower bound. 
Admittedly, using the `_gt?P` lemmas to prove `cards2P` may be overkill.

Comment (CohenCyril) [reply mathcomp/ssreflect/finset.v:827]: Here is an elaboration of what I had in mind:
```coq
Lemma set_enum A : [set x | x \in enum A] = A.
Proof. by apply/setP => x; rewrite inE mem_enum. Qed.

Variant cards_eq_spec A : seq T -> {set T} -> nat -> Type :=
| CardEq (s : seq T) & uniq s : cards_eq_spec A s [set x | x \in s] (size s).

Lemma cards_eqP A : cards_eq_spec A (enum A) A #|A|.
Proof.
by move: (enum A) (cardE A) (set_enum A) (enum_uniq A) => s -> <-; constructor.
Qed.

Lemma cards1P A : reflect (exists x, A = [set x]) (#|A| == 1).
Proof.
apply: (iffP idP) => [|[x ->]]; last by rewrite cards1.
have [[|x []]// _] := cards_eqP; exists x; apply/setP => y; rewrite !inE.
Qed.

Lemma cards2P A : reflect (exists x y : T, x != y /\ A = [set x; y]) (#|A| == 2).
Proof.
apply: (iffP idP) => [|[x] [y] [xy ->]]; last by rewrite cards2 xy.
have [[|x [|y [|z s]]]//= s_uniq] := cards_eqP; rewrite !inE andbT in s_uniq.
by exists x, y; split=> //; apply/setP => z; rewrite !inE.
Qed.
```
and something like this for fintype...

Comment (CohenCyril) [reply mathcomp/ssreflect/finset.v:827]: > And `card_geqP` is about encapsulating the picking of a subsequence of `enum A`, if one only has a lower bound.

Indeed, I missed that...

Comment (chdoc) [reply mathcomp/ssreflect/finset.v:827]: Okay, for `{set _}` what you propose is indeed more general and more direct than what I had proposed. However, I'm not sure it transfers all that well to predicates: due to the lack of extensionality, one cannot pull the `[set x | x \in enum A]` trick. One could instead generate `s =i A` as an assumption, but I'm not sure this view would be all that useful. 

The same goes for lower bounds, albeit for a different reason: there one doesn't even want to replace the original predicate/set.

**Comment by chdoc** [comment]
I tried to incorporate the feedback from @CohenCyril , and I found two more lemmas `fcard_gt0P` and `fcard_gt1P`. The proof of the latter naturally makes use of `card_gt1P`. These are adapted/simplified from the `fourcolor` development, where one can find a specific instance for each of them (`fcard0P` and `fcard1P`).

File: mathcomp/ssreflect/seq.v [hunk 3]
```diff
@@ -2011,6 +2011,9 @@ Proof. by rewrite -cats1 prefix_subseq. Qed.
 Lemma subseq_uniq s1 s2 : subseq s1 s2 -> uniq s2 -> uniq s1.
 Proof. by case/subseqP=> m _ -> Us2; apply: mask_uniq. Qed.
 
+Lemma take_uniq s n : uniq s -> uniq (take n s).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:2014]: if you are going to add `take_uniq`, also add `drop_uniq`

File: mathcomp/ssreflect/fintype.v [hunk 4]
```diff
@@ -790,6 +794,39 @@ move=> eAB [C]; congr (_ && _); first exact: (eq_subset_r eAB).
...
+Qed.
+
+Lemma card_gt2P A :
+  reflect (exists x y z, [/\ x \in A, y \in A & z \in A] /\ [/\ x!=y, y!=z & z!=x])
+          (2 < #|A|).
+Proof.
+apply: (iffP card_geqP) => [[s] []|[x] [y] [z] [[xD yD zD] [xDy xDz yDz]]].
+- case: s => [|x [|y [|z [|]]]] //=; rewrite !inE !andbT negb_or -andbA.
+  case/and3P => xDy xDz yDz _ subA.
+  by exists x;exists y;exists z; rewrite xDy yDz eq_sym xDz !subA ?inE ?eqxx ?orbT.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:825]:
```suggestion
  by exists x, y, z; rewrite xDy yDz eq_sym xDz !subA ?inE ?eqxx ?orbT.
```

File: mathcomp/ssreflect/fintype.v [hunk 5]
```diff
@@ -790,6 +794,39 @@ move=> eAB [C]; congr (_ && _); first exact: (eq_subset_r eAB).
...
+- exists [:: x;y;z]; rewrite /= !inE negb_or xDy xDz eq_sym yDz; split => // u.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:826]:
```suggestion
exists [:: x; y; z]; rewrite /= !inE negb_or xDy xDz eq_sym yDz; split=> // u.
```

File: mathcomp/ssreflect/fintype.v [hunk 6]
```diff
@@ -790,6 +794,39 @@ move=> eAB [C]; congr (_ && _); first exact: (eq_subset_r eAB).
...
+case: (ltnP n (size (enum A))) => // size_A.
+by apply/eqP; rewrite eqn_leq size_A -cardE n_le_A.
+Qed.
+
+Lemma card_gt1P A :
+  reflect (exists x y, [/\ x \in A, y \in A & x != y]) (1 < #|A|).
+Proof.
+apply: (iffP card_geqP) => [[s] []|[x] [y] [xA yA xDy]].
+- case: s => [|a [|b [|]]] //=; rewrite inE andbT => aDb _ subD.
+  by exists a; exists b; rewrite aDb !subD ?inE ?eqxx ?orbT.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:813]:
```suggestion
  by exists a, b; rewrite aDb !subD ?inE ?eqxx ?orbT.
```

File: mathcomp/ssreflect/fintype.v [hunk 7]
```diff
@@ -790,6 +794,39 @@ move=> eAB [C]; congr (_ && _); first exact: (eq_subset_r eAB).
...
+- exists [:: x;y]; rewrite /= !inE xDy ; split => // z.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:814]:
```suggestion
by exists [:: x; y]; rewrite /= !inE xDy ; split=> // z; rewrite !inE => /pred2P[]->.
```

File: mathcomp/ssreflect/fintype.v [hunk 8]
```diff
@@ -790,6 +794,39 @@ move=> eAB [C]; congr (_ && _); first exact: (eq_subset_r eAB).
...
+  by rewrite !inE; case/pred2P => ->.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:815]:
```suggestion
```

File: mathcomp/ssreflect/fintype.v [hunk 9]
```diff
@@ -624,13 +624,17 @@ Proof.
...
-apply: (iffP card_le1P)=> [inT x y|all_eq x _ y]; last first.
-  by rewrite (all_eq x) !inE eqxx.
-by suff: y \in T by rewrite (inT x)// => /eqP.
+apply: (iffP card_le1P) => [Ale1 x y xA yA /=|all_eq x xA y].
+  by apply/eqP; rewrite -[_ == _]/(y \in pred1 x) -Ale1.
+by rewrite inE; case: (altP (y =P x)) => [->//|]; exact/contra_neqF/all_eq.
 Qed.
 
+Lemma fintype_le1P : reflect (forall x : T, all_equal_to x) (#|T| <= 1).
+Proof. apply: (iffP (card_le1_eqP {:T})); [exact: in2T|exact: in2W]. Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:636]:
```suggestion
Proof. apply: (iffP (card_le1_eqP {:T})); [exact: in2T | exact: in2W]. Qed.
```

File: mathcomp/ssreflect/fintype.v [hunk 10]
```diff
@@ -624,13 +624,17 @@ Proof.
 by apply: (iffP idP) => [/eqP/mem_card1[x inA]|[x /eq_card1/eqP//]]; exists x.
 Qed.
 
-Lemma fintype_le1P : reflect (forall x, all_equal_to x) (#|T| <= 1).
+Lemma card_le1_eqP A :
+  reflect {in A&, forall x, all_equal_to x} (#|A| <= 1).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:628]:
```suggestion
  reflect {in A &, forall x, all_equal_to x} (#|A| <= 1).
```

File: mathcomp/ssreflect/fingraph.v [hunk 11]
```diff
@@ -611,6 +611,26 @@ Proof. by apply: same_connect1 => /=. Qed.
...
+by rewrite -(closed_connect clfA (connect_root _ x)).
+Qed.
+
+Lemma fcard_gt1P (A : {pred T}) :
+  fclosed f A ->
+  reflect (exists2 x, x \in A & exists2 y, y \in A & ~~ fconnect f x y)
+          (1 < fcard f A).
+Proof.
+move=> clAf; apply: (iffP card_gt1P) => [|[x] [xA [y yA not_xfy]]]. 
+  move => [x] [y] [/andP [/= rfx xA]] [/andP[/= rfy yA] xDy].
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fingraph.v:628]:
```suggestion
  move=> [x] [y] [/andP [/= rfx xA]] [/andP[/= rfy yA] xDy].
```

File: mathcomp/ssreflect/fingraph.v [hunk 12]
```diff
@@ -611,6 +611,26 @@ Proof. by apply: same_connect1 => /=. Qed.
...
+  by exists x; try exists y; rewrite // -root_connect // (eqP rfx) (eqP rfy).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fingraph.v:629]:
```suggestion
  by exists x; do 1?exists y; rewrite // -root_connect // (eqP rfx) (eqP rfy).
```

File: mathcomp/ssreflect/fintype.v [hunk 13]
```diff
@@ -790,6 +794,39 @@ move=> eAB [C]; congr (_ && _); first exact: (eq_subset_r eAB).
...
+- exists [:: x;y]; rewrite /= !inE xDy ; split => // z.
+  by rewrite !inE; case/pred2P => ->.
+Qed.
+
+Lemma card_gt2P A :
+  reflect (exists x y z, [/\ x \in A, y \in A & z \in A] /\ [/\ x!=y, y!=z & z!=x])
+          (2 < #|A|).
+Proof.
+apply: (iffP card_geqP) => [[s] []|[x] [y] [z] [[xD yD zD] [xDy xDz yDz]]].
+- case: s => [|x [|y [|z [|]]]] //=; rewrite !inE !andbT negb_or -andbA.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:823]:
```suggestion
  case: s => [|x [|y [|z []]]]//=; rewrite !inE !andbT negb_or -andbA.
```

File: mathcomp/ssreflect/fintype.v [hunk 14]
```diff
@@ -790,6 +794,39 @@ move=> eAB [C]; congr (_ && _); first exact: (eq_subset_r eAB).
...
+  case/and3P => xDy xDz yDz _ subA.
+  by exists x;exists y;exists z; rewrite xDy yDz eq_sym xDz !subA ?inE ?eqxx ?orbT.
+- exists [:: x;y;z]; rewrite /= !inE negb_or xDy xDz eq_sym yDz; split => // u.
+  by rewrite !inE => /or3P [] /eqP->.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:827]:
```suggestion
by rewrite !inE => /or3P [] /eqP->.
```

File: mathcomp/ssreflect/fintype.v [hunk 15]
```diff
@@ -790,6 +794,39 @@ move=> eAB [C]; congr (_ && _); first exact: (eq_subset_r eAB).
...
+split => //; last by move => x /mem_take; rewrite mem_enum.
+case: (ltnP n (size (enum A))) => // size_A.
+by apply/eqP; rewrite eqn_leq size_A -cardE n_le_A.
+Qed.
+
+Lemma card_gt1P A :
+  reflect (exists x y, [/\ x \in A, y \in A & x != y]) (1 < #|A|).
+Proof.
+apply: (iffP card_geqP) => [[s] []|[x] [y] [xA yA xDy]].
+- case: s => [|a [|b [|]]] //=; rewrite inE andbT => aDb _ subD.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:812]:
```suggestion
  case: s => [|a [|b []]]//=; rewrite inE andbT => aDb _ subD.
```

File: mathcomp/ssreflect/seq.v (hunk 3 above)
Comment (chdoc) [reply mathcomp/ssreflect/seq.v:2014]: Will do.

File: mathcomp/ssreflect/fingraph.v (hunk 11 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/fingraph.v:625]: this is not resolved...

File: mathcomp/ssreflect/fingraph.v [hunk 16]
```diff
@@ -608,6 +608,26 @@ Proof. by apply: same_connect1 => /=. Qed.
 Lemma same_fconnect1_r x y : fconnect f x y = fconnect f x (f y).
 Proof. by apply: same_connect1r x => /=. Qed.
 
+Lemma fcard_gt0P (a : {pred T}) : 
+  fclosed f a -> reflect (exists x, x \in a) (0 < fcard f a).
+Proof.
+move => clfA; apply: (iffP card_gt0P) => [[x /andP[]]|[x xA]]; first by exists x.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fingraph.v:614]:
```suggestion
move=> clfA; apply: (iffP card_gt0P) => [[x /andP[]]|[x xA]]; first by exists x.
```

File: mathcomp/ssreflect/fintype.v [hunk 17]
```diff
@@ -788,6 +792,38 @@ move=> eAB [C]; congr (_ && _); first exact: (eq_subset_r eAB).
...
+by apply/eqP; rewrite eqn_leq size_A -cardE n_le_A.
+Qed.
+
+Lemma card_gt1P A :
+  reflect (exists x y, [/\ x \in A, y \in A & x != y]) (1 < #|A|).
+Proof.
+apply: (iffP card_geqP) => [[s] []|[x] [y] [xA yA xDy]].
+  case: s => [|a [|b []]]//=; rewrite inE andbT => aDb _ subD.
+  by exists a, b; rewrite aDb !subD ?inE ?eqxx ?orbT.
+by exists [:: x; y]; rewrite /= !inE xDy ; split=> // z; rewrite !inE => /pred2P[]->.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:812]: This change I suggested apparently causes an overflow of the 80 character liimit, I suggest splitting the line as follows:
```suggestion
exists [:: x; y]; rewrite /= !inE xDy.
by split=> // z; rewrite !inE => /pred2P[]->.
```

File: mathcomp/ssreflect/fintype.v [hunk 18]
```diff
@@ -788,6 +792,39 @@ move=> eAB [C]; congr (_ && _); first exact: (eq_subset_r eAB).
...
+Proof.
+apply: (iffP card_geqP) => [[s] []|[x] [y] [xA yA xDy]].
+  case: s => [|a [|b []]]//=; rewrite inE andbT => aDb _ subD.
+  by exists a, b; rewrite aDb !subD ?inE ?eqxx ?orbT.
+exists [:: x; y]; rewrite /= !inE xDy.
+by split=> // z; rewrite !inE => /pred2P[]->.
+Qed.
+
+Lemma card_gt2P A :
+  reflect (exists x y z, [/\ x \in A, y \in A & z \in A] /\ [/\ x!=y, y!=z & z!=x])
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:817]: One last nitpicking that I did not see (we should really have a linter):
```suggestion
  reflect (exists x y z, [/\ x \in A, y \in A & z \in A] /\ [/\ x != y, y != z & z != x])
```

**Comment by chdoc** [comment]
I wasn't sure about this, because the line already had 82 characters, now it gained another 6. And yes, I want a linter, too. :smile:

**Comment by CohenCyril** [comment]
> I wasn't sure about this, because the line already had 82 characters, now it gained another 6. And yes, I want a linter, too.

Oh ok, I should really checkout locally.
In the core mathcomp repo there is a strict rule about the 80 characters per line limit. So this line should be split anyway.

**Comment by chdoc** [comment]
Well, running a `grep -n '.\{81\}' ssreflect/*.v` made me believe that the rule is not _that_ strict.

**Comment by CohenCyril** [comment]
> Well, running a `grep -n '.\{81\}' ssreflect/*.v` made me believe that the rule is not _that_ strict.

It used to be, this is outrageous :wink:
I will revive revive #163 ASAP.
